US04814346
As example 39, but using 7-hydroxy-8-methyl-3-(4-chlorophenyl)-4H-1-benzopyran-4-one (1.2 g) instead of 6,7-dihydroxy-3(3-methylphenyl)-4H-1-benzopyran-4-one. Tetrahydrofuran and acetic acid are used instead of dioxan/ethanol and sulphuric acid. The resulting oil is finally purified by elution on a silica gel column (CHCl3) to yield 3,4-dihydro-7-hydroxy-8-methyl-3-(4-chlorophenyl)-2H-1-benzopyran, m.p. 98°-100°.

reactant | 7-hydroxy-8-methyl-3-(4-chlorophenyl)-4H-1-benzopyran-4-one | 1.2 g | OC1=C(C2=C(C(C(=CO2)C2=CC=C(C=C2)Cl)=O)C=C1)C | C16H11ClO3
reactant | Tetrahydrofuran | O1CCCC1 | C4H8O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | dioxan ethanol | O1CCOCC1.C(C)O
product | 3,4-dihydro-7-hydroxy-8-methyl-3-(4-chlorophenyl)-2H-1-benzopyran | OC1=C(C2=C(CC(CO2)C2=CC=C(C=C2)Cl)C=C1)C | C16H15ClO2
